US04083983
3-Hydroxy-2-hydroxymethylpyridine (8.5 g) was added to a solution of sodium (1.565 g) in ethanol (100 cc) and the mixture was evaporated to dryness. Dimethylsulphoxide (180 cc) was added to the residue, and bromoethane (7.43 g) in dimethylsulphoxide (24 cc) was added over 20 minutes to the stirred mixture. The mixture was allowed to stand at room temperature for 65 hours, and was evaporated. The residue was partitioned between chloroform and water, and the chloroform extracts were evaporated to an oil which was converted into a crystalline hydrochloride m.p. 190°-191.5° by the addition of ethanolic hydrogen chloride. The hydrochloride was dissolved in water, and aqueous ammonia was added until the mixture was basic, and the mixture was extracted with chloroform. The chloroform extracts were evaporated and the residue crystallised from ethanol/diethyl ether to give 3-ethoxy-2-hydroxymethylpyridine (5.0 g) m.p. 74.5°-76°.

reactant | 3-Hydroxy-2-hydroxymethylpyridine | 8.5 g | OC=1C(=NC=CC1)CO | C6H7NO2
reactant | sodium | 1.565 g | [Na] | Na
reactant | ethanol | 100 cc | C(C)O | C2H6O
product | 3-ethoxy-2-hydroxymethylpyridine | 5.0 g | C(C)OC=1C(=NC=CC1)CO | C8H11NO2
